US06825191B2
Step 1: Synthesis of 8-hydroxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
650 mg (1.22 mmol) of 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid was dissolved in 50 ml of THF. 0.42 ml (2.4 mmol) of triethylamine and 0.15 ml (0.63 mmol) of ethyl chloroformate were added to the obtained solution under cooling with ice, and they were stirred for 30 minutes. A piece of ice was added to the obtained mixture, and then 92 mg (1.1 mmol) of sodium borohydride was added thereto. The temperature was elevated to room temperature, and the obtained mixture was stirred overnight. After the treatment with ethyl acetate as the extracting solvent, the title compound was obtained.

reactant | 4-(4-chlorobenzoyl)-2-oxo-1-[4-(1-pyrrolidinecarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid | 1.22 mmol, 650 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)O)CC3=CC=C(C=C3)C(=O)N3CCCC3)=O)C=C1 | C29H26ClN3O5
reactant | triethylamine | 2.4 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.63 mmol, 0.15 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 1.1 mmol, 92 mg | [BH4-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-hydroxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | OCC=1C=CC2=C(N(C(CN(C2)C(C2=CC=C(C=C2)Cl)=O)=O)CC2=CC=C(C=C2)C(=O)N2CC=CC2)C1 | C29H26ClN3O4
